US04251531
Ethyl 4-(2'-methoxy-benzoylamino)-benzoate (21 g), prepared according to Example 19 is reacted with ethyl carbamate (12 g) and P2O5 (70 g) in xylene (200 ml) for 6 hours at the reflux temperature. After cooling, the precipitate is filtered off, poured in ice-water and treated with NaOH to neutralization. The precipitate (23 g) is collected by filtering and is hydrolyzed by treatment with LiBr (10 moles/mole) in dimethylformamide (150 ml) at the reflux temperature for 2 hours. After cooling, acidify with acetic acid, filter and wash with hot ethanol to obtain 6-carboxy-2-(2'-methoxy-phenyl)-3,4-dihydro-4-oxo-quinazoline (14.7 g; m.p. 296°-297° C.).

reactant | Ethyl 4-(2'-methoxy-benzoylamino)-benzoate | 21 g | COC1=C(C(=O)NC2=CC=C(C(=O)OCC)C=C2)C=CC=C1 | C17H17NO4
reactant | ethyl carbamate | 12 g | C(N)(OCC)=O | C3H7NO2
reactant | P2O5 | 70 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
solvent | xylene | 200 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 6-carboxy-2-(2'-methoxy-phenyl)-3,4-dihydro-4-oxo-quinazoline | 14.7 g | C(=O)(O)C=1C=C2C(NC(=NC2=CC1)C1=C(C=CC=C1)OC)=O | C16H12N2O4
